US04189480
5-Isothiocyanato-3-propylisoquinoline (4.5 g) is added to a solution of (RS)-3-(2-hydroxyethyl)-1,2,3,4-tetrahydroisoquinoline (3.5 g) in absolute ethanol (35 cc). After stirring for 20 hours at a temperature of about 20° C., the crystals which have appeared are filtered off and then washed with ethanol (2×2 cc). (RS)-3-(2-Hydroxyethyl)-N-(3-propylisoquinol-5-yl)-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide (5.7 g) is thus obtained; after recrystallisation from propanol (50 cc), it melts at 175° C.

reactant | 5-Isothiocyanato-3-propylisoquinoline | 4.5 g | N(=C=S)C1=C2C=C(N=CC2=CC=C1)CCC | C13H12N2S
reactant | (RS)-3-(2-hydroxyethyl)-1,2,3,4-tetrahydroisoquinoline | 3.5 g | OCCC1NCC2=CC=CC=C2C1 | C11H15NO
solvent | ethanol | 35 cc | C(C)O | C2H6O
product | (RS)-3-(2-Hydroxyethyl)-N-(3-propylisoquinol-5-yl)-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide | 5.7 g | OCCC1N(CC2=CC=CC=C2C1)C(NC1=C2C=C(N=CC2=CC=C1)CCC)=S | C24H27N3OS
